US04918073
(a) Bis(4-fluorophenyl)acetyl chloride
35.5 g (0.143 mol) of bis(4-fluorophenyl)acetic acid were stirred at the reflux temperature in 150 ml of thionyl chloride for 4.5 hours and the excess thionyl chloride was evaporated off in vacuo.

reactant | bis(4-fluorophenyl)acetic acid | 0.143 mol, 35.5 g | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
product | Bis(4-fluorophenyl)acetyl chloride | FC1=CC=C(C=C1)C(C(=O)Cl)C1=CC=C(C=C1)F | C14H9ClF2O
